US08685975B2
2-(4-(1H-1,2,3-Triazol-1-yl)phenyl)-1-(5-(4-bromo-3,5-dimethoxyphenyl)furan-2-yl)-2-methoxyethanone was prepared from 2-(4-bromo-3,5-dimethoxyphenyl)furan and 2-(4-(1H-1,2,3-triazol-1-yl)phenyl)-N,2-dimethoxy-N-methylacetamide according to the procedure used in Example 30. Purification by chromatography (50% EtOAc/hexanes) gave 2-(4-(1H-1,2,3-triazol-1-yl)phenyl)-1-(5-(4-bromo-3,5-dimethoxyphenyl)furan-2-yl)-2-methoxyethanone as a yellow solid (0.025 g, 7% yield). MS: m/z 498.2 [M+H]+.

reactant | 2-(4-bromo-3,5-dimethoxyphenyl)furan | BrC1=C(C=C(C=C1OC)C=1OC=CC1)OC | C12H11BrO3
reactant | 2-(4-(1H-1,2,3-triazol-1-yl)phenyl)-N,2-dimethoxy-N-methylacetamide | N1(N=NC=C1)C1=CC=C(C=C1)C(C(=O)N(C)OC)OC | C13H16N4O3
product | 2-(4-(1H-1,2,3-triazol-1-yl)phenyl)-1-(5-(4-bromo-3,5-dimethoxyphenyl)furan-2-yl)-2-methoxyethanone | 0.025 g, 7% yield | N1(N=NC=C1)C1=CC=C(C=C1)C(C(=O)C=1OC(=CC1)C1=CC(=C(C(=C1)OC)Br)OC)OC | C23H20BrN3O5
